datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CC[O:61][C:11]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11](C)(CC1=CC=CC=C1)[H:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11](C)CC1=CC=CC=C1 10,11=10,20"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23].FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C(C)(C)C.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CCCC[O:72][C:11]([CH2:10][F:20])=[O+:12][Si:63](C)(C)C(C)(C)C.ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
"C/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](C)=[O:12])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:20](=[O:21])CCS1.CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[C:10]([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84]>>CC(C)(C)[O:94][C:83]([N+:12]1=[CH:11][C:10]([C:20]2([O-:21])CCSCC2)([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[C:11]1=[N:10]CC[NH:12]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[NH+:12]=[C:11]2C)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>C[Si:62](C)(C)[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCOCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCOCC2)[CH:45]=[CH:46]1)=[O+:12]C1=CC=CC=C1 10,11=10,20;12=11,12"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81](C)=[O:82])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
CO[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:10]1([C:20]([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92] 10=20
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](N)[CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CCCC[Si:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][S:20]C(F)(F)F 10,11=10,20;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C[C:72]1=[CH:71][N:10]=[C:11]([O-:12])[NH:84][C:73]1=[O:74]>>C[C:72]1=[CH:71][N:10]([CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:11](=[O:12])[NH:84][C:73]1=[O:74] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:31]2=[C:32]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[N-:10]=[N+:61]=[N-:62]>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N:10]=[N+:61]=[N-:62])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10=20;20,21=21"
